US06784192B2
3-Methylthio-2-thiophenemethanol
3.36 g of 3-methylthio-2-thiophenecarboxaldehyde and 802 mg of sodium borohydride were suspended in 20 ml of methanol, and the mixture was stirred at room temperature for one hour. The solvent was evaporated, water was added to the residue, and the mixture was extracted with ethyl acetate. The organic layer was washed with brine, and then the layer was dried on anhydrous magnesium sulfate. The solvent was evaporated, and the resulting crude product was purified by silica gel column chromatography (ethyl acetate:hexane=1:5), to give 3.16 g of the title compound as a colorless oil.

reactant | 3-methylthio-2-thiophenecarboxaldehyde | 3.36 g | CSC1=C(SC=C1)C=O | C6H6OS2
reactant | sodium borohydride | 802 mg | [BH4-].[Na+]
solvent | methanol | 20 ml | CO | CH4O
product | 3-Methylthio-2-thiophenemethanol | 3.16 g | CSC1=C(SC=C1)CO | C6H8OS2
